US04230707
2-Ethyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid
A mixture of 2-amino-5-ethyl-3-thiophenecarboxylic acid, ethyl ester (Chemische Berichte, Vol. 99, pages 94-100, 1966), 2.0 g (0.01 mol) and 6-chloro-3-pyridinecarboxylic acid (Aldrich Chemical Company), 1.6 g (0.01 mol) is heated in an oil bath at 180°-185° C. for six hours. The mixture is cooled, dissolved in hot glacial acetic acid, activated charcoal (Darco G-60, Matheson, Coleman and Bell) added and the hot suspension filtered through Supercell Hyflo® (Johns-Manville). The filtrate is cooled and 0.33 g of 2-ethyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid is collected; mp 255°-257° C. after recrystallization from methanol.

reactant | 2-amino-5-ethyl-3-thiophenecarboxylic acid, ethyl ester | NC=1SC(=CC1C(=O)OCC)CC | C9H13NO2S
reactant | 6-chloro-3-pyridinecarboxylic acid | ClC1=CC=C(C=N1)C(=O)O | C6H4ClNO2
reactant | charcoal | C | CH4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Ethyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid | C(C)C1=CC2=C(N=C3N(C2=O)C=C(C=C3)C(=O)O)S1 | C13H10N2O3S
